2181-06-23 09:45:00 Physician Attending Progress Note
Chief Complaint: overdose and dyspnea
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69F with entercutaneous fistula, presents from nursing home with GNR
   bacteremia with picc line and oxycodone overdose:
   24 Hour Events:
 PICC LINE - START [**2181-6-22**] 08:14 PM
 BLOOD CULTURED - At [**2181-6-23**] 03:34 AM
   Overnight:
   -abx broadened
   -2 liter IVF for low bp
   -blood transfusion started this AM for lower hct
   -unable to change CVL because
   -during rounds developed acute respiratory distress in the setting of
   blood transfusion; given bipap, lopressor, lasix, morphine, nitro paste
   with response; blood stopped and sent back; cxr repeated (poor quality
   unchanged); no crackles on exam
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2181-6-23**] 02:00 AM
   Ciprofloxacin - [**2181-6-23**] 03:00 AM
   Vancomycin - [**2181-6-23**] 08:00 AM
   Infusions:
   Other ICU medications:
   Naloxone (Narcan) - [**2181-6-22**] 11:45 PM
   Heparin Sodium (Prophylaxis) - [**2181-6-23**] 08:00 AM
   Omeprazole (Prilosec) - [**2181-6-23**] 08:00 AM
   Furosemide (Lasix) - [**2181-6-23**] 08:37 AM
   Metoprolol - [**2181-6-23**] 08:44 AM
   Morphine Sulfate - [**2181-6-23**] 09:03 AM
   Other medications:
   sqh, vanco, insulin, colchicine, fent gtt (not on), adv/atr, cipro,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: No(t) Chest pain, Palpitations, Edema, Tachycardia,
   Orthopnea
   Nutritional Support: NPO
   Respiratory: Dyspnea, Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Emesis
   Genitourinary: Dysuria
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Heme / Lymph: No(t) Lymphadenopathy
   Neurologic: Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Delirious
   Signs or concerns for abuse : No
   Pain: [**6-13**] Moderate
   Pain location: lower back pain
   Flowsheet Data as of  [**2181-6-23**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.1
   HR: 154 (100 - 154) bpm
   BP: 119/88(95) {78/40(49) - 123/88(95)} mmHg
   RR: 33 (20 - 33) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
           Total In:
                                                                  3,310 mL
                                                                  1,300 mL
   PO:
           TF:
   IVF:
                                                                  2,210 mL
                                                                  1,195 mL
   Blood products:
   105 mL
   Total out:
                                                                    195 mL
                                                                    795 mL
   Urine:
                                                                    115 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,115 mL
                                                                    505 mL
   Respiratory support
   O2 Delivery Device: Bipap mask , Other
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,008 (1,008 - 1,008) mL
   PS : 14 cmH2O
   RR (Spontaneous): 41
   PEEP: 8 cmH2O
   FiO2: 100%
   PIP: 25 cmH2O
   SpO2: 97%
   ABG: 7.46/32/113/19/0
   Ve: 38.9 L/min
   PaO2 / FiO2: 113
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, Anxious
   Head, Ears, Nose, Throat: Normocephalic, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal),
   (Murmur: Systolic), very tachy, difficult to hear m
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : bibasilar only, Wheezes : )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   6.6 g/dL
   118 K/uL
   84 mg/dL
   0.9 mg/dL
   19 mEq/L
   5.1 mEq/L
   23 mg/dL
   111 mEq/L
   140 mEq/L
   21.2 %
   10.4 K/uL
        [image002.jpg]
   LABS:
                             [**2181-6-22**]  07:19 PM
                             [**2181-6-23**]  03:28 AM
                             [**2181-6-23**]  05:01 AM
   WBC
   8.6
   10.4
   Hct
   20.2
   21.2
   Plt
   101
   118
   Cr
   0.8
   0.9
   TCO2
   23
   Glucose
   726
   84
   Other labs: Differential-Neuts:77.0 %, Band:0.0 %, Lymph:8.0 %,
   Mono:15.0 %, Eos:0.0 %, Ca++:7.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Imaging: cxr: relatively clear; R picc in good position
   MICRO: GNR in blood
   EKG: lad, more tachy but no [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 7582**] prior
   Assessment and Plan
 POISONING / OVERDOSE, OTHER
 ALTERATION IN NUTRITION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   76F with htn, enterocutaneau fistula, with acute respiratory distress
   of unclear etiology, lilkely from flash pulmonary edema although
   RESPIRATORY DISTRESS:
   -morphine and nitro prn
   -bipap for now; intubated if needed
   -echo today
   -monitor uop
   -PE is possible; will consider empiric a/c and work-up with LENI
s and
   TTE; cannot lay flat for PECT
   -cont nebs for copd; no indication for steroids for now
   ANEMIA: doubt transfusion reaction; also low plt
   -anemia panel
   -transfuse with different blood while work-up
   -although g+ stool no signs of active gib; cont and increase ppi
   -find out baseline plt (180 recent)
   GNR BACTEREMIA: wbc down
   -cont meropenem and start cipro until sensies return
   -must d/c PICC line and place central line vs more peripherals
   -fu cultures
   ACCESS
   -will consider femoral line vs subclavian since cannot be supine
   HTN:
   -tte
   -cont betablocker, low dose aci
   -at risk for clonine withdrawal but hypotensive now; monitor and
   restart of htn again
   -nitro prn
   OPIATE OVERDOSE: need to clarify hx
   -resolved
   -restart fent patch for hip and lbp
   ENTEROCUTANEOUS FISTULA
   -ntd
   -cont tpn when central access
   GOALS OF CARE: reversed dnr/dni this am, so now full code
   ICU Care
   Nutrition:
   Comments: tpn when access available
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2181-6-22**] 08:14 PM
   20 Gauge - [**2181-6-22**] 11:13 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2181-06-24 07:58:00 Physician Resident Progress Note
Chief Complaint: hypotension
   24 Hour Events:
   - Episode of respiratory distress on rounds; treated with NIV, IV lasix
   and nitropase.
   - Echo obtained: severe AS
   - Omeprazole increased to 40mg daily
   - Left subclavian line
   - Transfused 1unit prbcs overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2181-6-23**] 08:00 AM
   Meropenem - [**2181-6-24**] 02:06 AM
   Ciprofloxacin - [**2181-6-24**] 03:00 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2181-6-23**] 08:00 AM
   Furosemide (Lasix) - [**2181-6-23**] 08:37 AM
   Metoprolol - [**2181-6-23**] 08:44 AM
   Morphine Sulfate - [**2181-6-23**] 09:03 AM
   Heparin Sodium (Prophylaxis) - [**2181-6-24**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Breathing improved today. C/o mild L hand pain c/w her chronic
   arthritis.
   Flowsheet Data as of  [**2181-6-24**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 35.5
C (95.9
   HR: 92 (87 - 154) bpm
   BP: 114/62(74) {80/34(47) - 187/114(128)} mmHg
   RR: 18 (15 - 40) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 9 (5 - 9)mmHg
   Total In:
                                                                  2,474 mL
                                                                    979 mL
   PO:
   TF:
   IVF:
                                                                  2,369 mL
                                                                    629 mL
   Blood products:
                                                                    105 mL
                                                                    350 mL
   Total out:
                                                                  1,949 mL
                                                                    525 mL
   Urine:
                                                                    979 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    525 mL
                                                                    454 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   Ventilator mode: Standby
   Vt (Spontaneous): 734 (734 - 1,008) mL
   PS : 10 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 0 cmH2O
   SpO2: 95%
   ABG: ///21/
   Ve: 23.9 L/min
   Physical Examination
   Lying in bed appears comfortable
   Diminished carotid upstrokes
   Regular S1 S2 III/VI late peaking systolic <> murmur RUSB
   Lungs clear bilaterally on anterior exam
   Abd wound covered, milding tender R
   Extrem warm no edema palpable pulses
   No erythematous or inflamed joints noted
   Labs / Radiology
   90 K/uL
   7.6 g/dL
   83 mg/dL
   1.2 mg/dL
   21 mEq/L
   4.1 mEq/L
   28 mg/dL
   113 mEq/L
   142 mEq/L
   24.6 %
   13.7 K/uL
        [image002.jpg]
                             [**2181-6-22**]  07:19 PM
                             [**2181-6-23**]  03:28 AM
                             [**2181-6-23**]  05:01 AM
                             [**2181-6-23**]  11:28 AM
                             [**2181-6-23**]  05:17 PM
                             [**2181-6-24**]  05:36 AM
   WBC
   8.6
   10.4
   5.8
   18.8
   13.7
   Hct
   20.2
   21.2
   22.7
   22.1
   24.6
   Plt
   101
   118
   91
   93
   90
   Cr
   0.8
   0.9
   0.9
   1.2
   TropT
   0.03
   TCO2
   23
   Glucose
   726
   84
   62
   83
   Other labs: PT / PTT / INR:16.6/32.5/1.5, CK / CKMB /
   Troponin-T:53/2/0.03, Differential-Neuts:77.0 %, Band:0.0 %, Lymph:8.0
   %, Mono:15.0 %, Eos:0.0 %, Ca++:8.4 mg/dL, Mg++:2.6 mg/dL, PO4:3.1
   mg/dL
   CXR
   New left subclavian vascular catheter terminates at junction of left
   brachiocephalic vein and superior vena cava, with no evidence of
   pneumothorax.
   No other relevant changes since recent radiograph allowing for
   technical
   differences.
   LENIs negative
   Echo
   The left atrium is elongated. There is mild symmetric left ventricular
   hypertrophy with normal cavity size and global systolic function
   (LVEF>55%). Due to suboptimal technical quality, a focal wall motion
   abnormality cannot be fully excluded. The aortic valve is not well
   seen. There is severe aortic valve stenosis (valve area likely <1.0cm2
   given peak gradient >60mmHg). No definite aortic regurgitation is seen.
   The mitral valve could not be adequated assessed. The pulmonary artery
   systolic pressure could not be quantified. There is no definite
   pericardial effusion.
   IMPRESSION: Suboptimal image quality. Severe aortic stenosis. Normal
   left ventricular cavity size with preserved global systolic function.
   Micro
   [**6-22**] blood cx GNR prelim pan sensitive
   [**6-22**] urine cx negative
   [**6-23**] blood cx [**3-12**] NGTD
   [**6-23**] catheter tip NGTD
   Assessment and Plan
   69F with history of ? moderate AS, HTN, COPD, entero-cutaneous fistula
   after abdominal surgery on TPN, h/o multiple infections presents from
   rehab w/ hypoxia and hypotension after accidental overdose of
   oxycodone.
   #. Hypoxia: Acute respiratory distress ([**6-23**]) in setting of getting
   blood transfusion. [**Month (only) 51**] have been transfusion reaction, or manifestation
   of SIRS given her bacteremia.  CXR without overt pulmonary edema though
   may still have had flash pulmonary edema or TACO.  Improved with nitro
   paste, morphine, lasix and NIV. Echo shows severe AS. Think HAP less
   likely.
   - Continue NIV and wean as tolerated
   - Treating w/ broad-spectrum antibiotics that would cover a HAP
   (although minimal cough)
   - Continue usual inhalers for COPD
   - Send blood for possible transfusion reaction
   #. Sepsis:  GNR bacteremia.  Was being treated for UTI at rehab with
   imepenum. Clinically improving with decreasing WBC count.
   - Continue meropenum and cipro pending culture data, should be able to
   narrow to cipro alone once final sensis back
   - f/u pending cultures and CIS
   #. Hypotension:  Intiailly likely from both opiod effect along w/ GNR
   bacteremia.  On morning of [**6-23**] was hypertensive.  Hypertension may be
   combination of holding antihypertensives (including clonidine) and her
   narcotics. BPs still borderline [**6-23**] evening but improved this AM.
   - Holding home hypertensives and follow
   #. Anemia: Microcytic w/ known iron-deficiency w/ guaiac + fistula
   output.  Apparently had an EGD in [**Month (only) 25**] w/ gastritis.  HCT has been
   stable at OSH over the past several days but dropped this in the
   setting of fluid recussitation.  No signs of active GI bleed. Hct
   bumped appropriately post transfusion yesterday
   - PPI
   - [**Hospital1 7**] hcts for now, maintain active T+S
   # Acute renal failure
   Cr bumped from 0.8 to 1.2 today. Might have become intravascularly
   depleted in setting of lasix yesterday. Consider also ATN in the
   setting of hypotensive. AIN in setting of antibiotics also a
   possibility.
   - Check UA, lytes
   - Renally doses meds, follow urine output
   - Repeat Cr in PM
   # Opioid overdose, resolved: Received naloxone 0.4 mg at rehab and 0.2
   mg first night of admission. Alert today.
   - Continue fentanyl patch
   #. OSA: Tolerated CPAP overnight
   #. Aortic stenosis: Loud murmur on exam.  Per patient, has been told
   she needs a balloon to open her valve. Echo repeated here shows severe
   AS.
   - Cautious fluid management
   - Will need cardiology followup
   #. Gout: colchicine (will decrease to daily given large volume of
   fistula output)
   #. DM2:  Per history diet controlled
   - SS humalog for now
   #. COPD/Asthma: advair, ipratropium nebs, hold albuterol given
   tachycardia
   ICU Care
   Nutrition: diabetic diet when off BiPAP
   Glycemic Control:  Comments: humalog sliding scale
   Lines:
   20 Gauge - [**2181-6-22**] 11:13 PM
   Multi Lumen - [**2181-6-23**] 03:16 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:  n/a
   Code status: DNR / DNI
   Disposition:ICU

2181-06-24 10:43:00 Physician Attending Progress Note
Chief Complaint: opiate overdose and bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69F w/ severe AS, HTN, COPD, entero-cutaneous fistula after abdominal
   surgery on TPN, h/o multiple infections presents from rehab w/ hypoxia
   and hypotension and gnr in blood:
   24 Hour Events:
 EKG - At [**2181-6-23**] 08:30 AM
 NON-INVASIVE VENTILATION - START [**2181-6-23**] 09:02 AM
 TRANSTHORACIC ECHO - At [**2181-6-23**] 02:00 PM
 MULTI LUMEN - START [**2181-6-23**] 03:16 PM
 NON-INVASIVE VENTILATION - STOP [**2181-6-23**] 04:13 PM
 STOOL CULTURE - At [**2181-6-23**] 05:22 PM
   c.diff
 NASAL SWAB - At [**2181-6-23**] 05:22 PM
   MRSA screen
 ULTRASOUND - At [**2181-6-23**] 06:01 PM
   LENIs
 PICC LINE - STOP [**2181-6-23**] 10:47 PM
 FEVER - 103.2
F - [**2181-6-23**] 12:00 PM
   More stable later in the day.
   Low bp responsive to ns and transfusion.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2181-6-23**] 08:00 AM
   Meropenem - [**2181-6-24**] 02:06 AM
   Ciprofloxacin - [**2181-6-24**] 03:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-6-24**] 08:00 AM
   Omeprazole (Prilosec) - [**2181-6-24**] 08:00 AM
   Other medications:
   fent, cipro, [**Last Name (un) 614**], vanco, omepr, colchicine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever
   Ear, Nose, Throat: No(t) Dry mouth, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Genitourinary: No(t) Dysuria, Foley
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2181-6-24**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 36.1
C (96.9
   HR: 96 (87 - 135) bpm
   BP: 121/58(74) {80/34(47) - 121/62(74)} mmHg
   RR: 18 (15 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 9 (5 - 9)mmHg
   Total In:
                                                                  2,474 mL
                                                                  1,048 mL
   PO:
                                                                     50 mL
   TF:
   IVF:
                                                                  2,369 mL
                                                                    648 mL
   Blood products:
                                                                    105 mL
                                                                    350 mL
   Total out:
                                                                  1,949 mL
                                                                    525 mL
   Urine:
                                                                    979 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    525 mL
                                                                    523 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 734 (734 - 839) mL
   PS : 10 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 23.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender: mild
   LLQ tender on deep palp
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   90 K/uL
   83 mg/dL
   1.2 mg/dL
   21 mEq/L
   4.1 mEq/L
   28 mg/dL
   113 mEq/L
   142 mEq/L
   24.6 %
   13.7 K/uL
        [image002.jpg]
                             [**2181-6-22**]  07:19 PM
                             [**2181-6-23**]  03:28 AM
                             [**2181-6-23**]  05:01 AM
                             [**2181-6-23**]  11:28 AM
                             [**2181-6-23**]  05:17 PM
                             [**2181-6-24**]  05:36 AM
   WBC
   8.6
   10.4
   5.8
   18.8
   13.7
   Hct
   20.2
   21.2
   22.7
   22.1
   24.6
   Plt
   101
   118
   91
   93
   90
   Cr
   0.8
   0.9
   0.9
   1.2
   TropT
   0.03
   TCO2
   23
   Glucose
   726
   84
   62
   83
   Other labs: PT / PTT / INR:16.6/32.5/1.5, CK / CKMB /
   Troponin-T:53/2/0.03, Differential-Neuts:77.0 %, Band:0.0 %, Lymph:8.0
   %, Mono:15.0 %, Eos:0.0 %, Ca++:8.4 mg/dL, Mg++:2.6 mg/dL, PO4:3.1
   mg/dL
   Fluid analysis / Other labs: urine lytes
   proBNP: 1649
   low iron, high ferritin
   Imaging: lenis: no dvt
   Microbiology: cath tip pending
   bcx: pan-sensitive gnr, spec pending
   ECG: sinus
   Assessment and Plan
 ANEMIA, CHRONIC
 POISONING / OVERDOSE, OTHER
 ALTERATION IN NUTRITION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   69F with severe as, p/w GNR bacteremia, likely from PICC used for TPN,
   but possible gi source:
   gnr bacteremia:
   -picc removed
   -will try to remove central line asap when more stable
   -cont cipro and stop all other abx
   -fu cultures
   -will need new picc for long-term tx of bacteremia
   -mild tenderness on abd exam does raise possibility of gi source but
   exam so benign will hold off on further diagnostic studies return
   resp distress: much imroved with bipap and treatment of infection and
   control of bp; severe as likely most significant significant factor.
   likely mutifactorial yesterday; good sat on RA now and reports
   breathing at baseline
   -cont treatment of htn
   -cont inh for copd
   ?arf: in setting of hypotension, lasix, hypovolemia
   -monitor closely
   -bp control
   back pain:
   -restart opiates
   arrhythmia: in the setting of acute illness, now resolved back to sinus
   -ntd
   depression: teary-eyed on exam today
   -restart mirtaz
   dispo: given such dramatic and rapid deterioration yesterday will
   observe throughout the day today and likely can d/c to floor much later
   today or tomorrow if remains stable
   ICU Care
   Nutrition:
   Comments: restart TPN tomorrow; will need new picc
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2181-6-22**] 11:13 PM
   Multi Lumen - [**2181-6-23**] 03:16 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2181-06-25 08:14:00 Physician Resident Progress Note
Chief Complaint: hypotension
   24 Hour Events:
   --admission blood cultures grew pan sensitive E coli. Discontinued
   zosyn and continued ciprofloxacin.
   --restarted TPN
   --will get new PICC on [**6-25**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2181-6-23**] 08:00 AM
   Meropenem - [**2181-6-24**] 10:00 AM
   Ciprofloxacin - [**2181-6-25**] 02:20 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2181-6-24**] 08:46 PM
   Heparin Sodium (Prophylaxis) - [**2181-6-25**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Breathing ok today. Has her chronic pain, but minimal and she is
   feeling pretty comfortable.
   Flowsheet Data as of  [**2181-6-25**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 87 (80 - 121) bpm
   BP: 170/70(94) {114/57(74) - 170/105(111)} mmHg
   RR: 18 (16 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 9 (4 - 12)mmHg
   Total In:
                                                                  2,000 mL
                                                                    623 mL
   PO:
                                                                    350 mL
   TF:
   IVF:
                                                                  1,090 mL
                                                                    281 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,425 mL
                                                                  1,120 mL
   Urine:
                                                                  1,075 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -425 mL
                                                                   -497 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 99%
   ABG: ///19/
   Physical Examination
   Sitting up in bed looks comfortable
   Regular S1 S2 III/VI <> RUSB
   Lungs clear bilateraly no rales/wheezing
   L subclavian in place
   Abd soft +bowel sounds wound vac in place mildly tender without
   rigidity or guarding, as before
   Extrem warm with 1+ bilateral edema
   Alert and interactive
   Labs / Radiology
   122 K/uL
   7.7 g/dL
   158 mg/dL
   0.9 mg/dL
   19 mEq/L
   3.7 mEq/L
   22 mg/dL
   114 mEq/L
   142 mEq/L
   25.7 %
   7.1 K/uL
        [image002.jpg]
                             [**2181-6-22**]  07:19 PM
                             [**2181-6-23**]  03:28 AM
                             [**2181-6-23**]  05:01 AM
                             [**2181-6-23**]  11:28 AM
                             [**2181-6-23**]  05:17 PM
                             [**2181-6-24**]  05:36 AM
                             [**2181-6-24**]  07:46 PM
                             [**2181-6-25**]  04:18 AM
   WBC
   8.6
   10.4
   5.8
   18.8
   13.7
   9.0
   7.1
   Hct
   20.2
   21.2
   22.7
   22.1
   24.6
   24.4
   25.7
   Plt
   101
   118
   91
   93
   90
   106
   122
   Cr
   0.8
   0.9
   0.9
   1.2
   0.9
   0.9
   TropT
   0.03
   TCO2
   23
   Glucose
   726
   84
   62
   83
   133
   158
   Other labs: PT / PTT / INR:16.6/32.5/1.5, CK / CKMB /
   Troponin-T:53/2/0.03, Differential-Neuts:77.0 %, Band:0.0 %, Lymph:8.0
   %, Mono:15.0 %, Eos:0.0 %, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.5
   mg/dL
   Micro:
   [**6-22**] blood cx pan S E coli
   [**6-22**] urine cx negative
   [**6-23**] blood cx NGTD
   [**6-23**] stool c siff negative
   [**6-23**] catheter tip NGTD
   Assessment and Plan
   69F with history of ? moderate AS, HTN, COPD, entero-cutaneous fistula
   after abdominal surgery on TPN, h/o multiple infections presents from
   rehab w/ hypoxia and hypotension after accidental overdose of
   oxycodone.
   #. Hypoxia:
   Now significantly improved, on room air.
   Acute respiratory distress ([**6-23**]) in setting of getting blood
   transfusion. [**Month (only) 51**] have been transfusion reaction, or manifestation of
   SIRS given her bacteremia.  CXR without overt pulmonary edema though
   may still have had flash pulmonary edema or TACO.  Improved with nitro
   paste, morphine, lasix and NIV. Echo shows severe AS. Think HAP less
   likely.
   - Continue NIV as needed
   - Treating w/ broad-spectrum antibiotics that would cover a HAP
   (although minimal cough)
   - Continue usual inhalers for COPD
   - Send blood for possible transfusion reaction
   #. Sepsis:
   Bacteremia with pan S E coli
   Was being treated for UTI at rehab with imepenum. Clinically improving
   with decreasing WBC count.  PICC line now out.
   - Continue cipro x7d course
   - f/u pending cultures and CIS
   #. Hypotension:
   Resolved
   Initially likely from both opiod effect along w/ GNR bacteremia.  On
   morning of [**6-23**] was hypertensive.  Hypertension may be combination of
   holding antihypertensives (including clonidine) and her narcotics. BPs
   still borderline [**6-23**] evening but improved this AM.
   - Can likely restart either ACEI or bblocker today
   # Acute renal failure
   Cr bumped from 0.8 to 1.2 today. Might have become intravascularly
   depleted in setting of lasix yesterday. Consider also ATN in the
   setting of hypotensive. AIN in setting of antibiotics also a
   possibility.
   - Check UA, lytes
   - Renally doses meds, follow urine output
   - Repeat Cr in PM
   #. Aortic stenosis: Echo repeated here shows severe AS.
   - Cautious fluid management
   - Will need cardiology followup
   #. Anemia: Microcytic w/ known iron-deficiency w/ guaiac + fistula
   output.  Apparently had an EGD in [**Month (only) 25**] w/ gastritis.  HCT has been
   stable at OSH over the past several days but dropped this in the
   setting of fluid resuscitation.  No signs of active GI bleed. Hct
   bumped appropriately post transfusion yesterday
   - PPI
   - [**Hospital1 7**] hcts for now, maintain active T+S
   # Opioid overdose, resolved: Received naloxone 0.4 mg at rehab and 0.2
   mg first night of admission. Alert today.
   - Continue fentanyl patch
   #. OSA: Tolerated CPAP overnight
   #. Gout: colchicine (will decrease to daily given large volume of
   fistula output)
   #. DM2:  Per history diet controlled
   - SS humalog for now
   #. COPD/Asthma: advair, ipratropium nebs, hold albuterol given
   tachycardia
   ICU Care
   Nutrition:
   TPN without Lipids - [**2181-6-24**] 07:00 PM 42 mL/hour
   Glycemic Control:  Comments: humalog sliding scale
   Lines:
   20 Gauge - [**2181-6-22**] 11:13 PM
   Multi Lumen - [**2181-6-23**] 03:16 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2181-06-25 11:46:00 Physician Attending Progress Note
Chief Complaint: resp distress and htn
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69F with severe as, initially presented with hypotension and question
   of opiate overdose, and GNR bacteremia:
   24 Hour Events:
   stable overnight.
   bp climbing.
   autodiuresis.
   afebrile.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2181-6-23**] 08:00 AM
   Meropenem - [**2181-6-24**] 10:00 AM
   Ciprofloxacin - [**2181-6-25**] 02:20 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2181-6-24**] 08:46 PM
   Heparin Sodium (Prophylaxis) - [**2181-6-25**] 12:10 AM
   Other medications:
   fent tdd, advair, cipro, metopr, miraz, tylenol, omepr, oxycodone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria, Foley
   Endocrine: No(t) Hyperglycemia
   Psychiatric / Sleep: No(t) Delirious, No(t) Daytime somnolence
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2181-6-25**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.4
   HR: 92 (80 - 103) bpm
   BP: 178/79(112) {122/57(75) - 178/105(112)} mmHg
   RR: 20 (16 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 10 (4 - 12)mmHg
   Total In:
                                                                  2,000 mL
                                                                    803 mL
   PO:
                                                                    350 mL
   TF:
   IVF:
                                                                  1,090 mL
                                                                    316 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,425 mL
                                                                  1,240 mL
   Urine:
                                                                  1,075 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -425 mL
                                                                   -437 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Tender:
   rllq, Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Not assessed, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   122 K/uL
   158 mg/dL
   0.9 mg/dL
   19 mEq/L
   3.7 mEq/L
   22 mg/dL
   114 mEq/L
   142 mEq/L
   25.7 %
   7.1 K/uL
        [image002.jpg]
                             [**2181-6-22**]  07:19 PM
                             [**2181-6-23**]  03:28 AM
                             [**2181-6-23**]  05:01 AM
                             [**2181-6-23**]  11:28 AM
                             [**2181-6-23**]  05:17 PM
                             [**2181-6-24**]  05:36 AM
                             [**2181-6-24**]  07:46 PM
                             [**2181-6-25**]  04:18 AM
   WBC
   8.6
   10.4
   5.8
   18.8
   13.7
   9.0
   7.1
   Hct
   20.2
   21.2
   22.7
   22.1
   24.6
   24.4
   25.7
   Plt
   101
   118
   91
   93
   90
   106
   122
   Cr
   0.8
   0.9
   0.9
   1.2
   0.9
   0.9
   TropT
   0.03
   TCO2
   23
   Glucose
   726
   84
   62
   83
   133
   158
   Other labs: PT / PTT / INR:16.6/32.5/1.5, CK / CKMB /
   Troponin-T:53/2/0.03, Differential-Neuts:77.0 %, Band:0.0 %, Lymph:8.0
   %, Mono:15.0 %, Eos:0.0 %, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.5
   mg/dL
   Microbiology: pan-[**Last Name (un) 270**] ecoli
   Assessment and Plan
 INEFFECTIVE COPING
 ANEMIA, CHRONIC
 POISONING / OVERDOSE, OTHER
 ALTERATION IN NUTRITION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   69F with severe AS, e.coli bacteremia likely from picc, with transient
   severe respoiratory distress of unclear etiology, likely
   multifactorial, now looking well:
   resp distress:
   -bp control
   -cont copd tx
   htn
   -restart captopril
   -may need to restart clonidine
   -cont metoprolol
   e.coli bacteremia:
   -cont cipro for 14 days
   -picc pulled
   pain:
   -cont opiates, smaller dose
   depression:
   -cont mirtazipine
   severe as:
   -outpatient follow-up
   -may need to repeat tte for better windows
   ICU Care
   Nutrition:
   TPN without Lipids - [**2181-6-24**] 07:00 PM 42 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2181-6-22**] 11:13 PM
   Multi Lumen - [**2181-6-23**] 03:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   Patient is critically ill